US05556864
51(a) 1-t-Butoxycarbonyl-3-{2-[2-(3-methoxyphenyl)ethyl]phenoxy}piperidine
Following a procedure similar to that described in Example 36(a), 1.50 g of 2-[2-(3-methoxyphenyl)ethyl]phenol (prepared as described in Preparation 20), 2.64 g of 1-t-butoxycarbonyl-3-hydroxypiperidine, 3.44 g of triphenylphosphine and 2.29 g of diethyl azodicarboxylate were reacted. The mixture was then worked up as described in Example 36(a), and the crude product thus obtained was purified by column chromatography through silica gel, using a 7:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 1.68 g (yield 62%) of the title compound as a colorless oil.

reactant | 2-[2-(3-methoxyphenyl)ethyl]phenol | 1.50 g | COC=1C=C(C=CC1)CCC1=C(C=CC=C1)O | C15H16O2
reactant | 1-t-butoxycarbonyl-3-hydroxypiperidine | 2.64 g | C(C)(C)(C)OC(=O)N1CC(CCC1)O | C10H19NO3
reactant | triphenylphosphine | 3.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.29 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 1-t-Butoxycarbonyl-3-{2-[2-(3-methoxyphenyl)ethyl]phenoxy}piperidine | 1.68 g, yield 62% | C(C)(C)(C)OC(=O)N1CC(CCC1)OC1=C(C=CC=C1)CCC1=CC(=CC=C1)OC | C25H33NO4
